US04820698
56.81 g (44.0 mmol) of tetra-n-heptyl methylenebisphosphonate, 6.61 g (220.0 mmol) of paraformaldehyde and 3.22 g (64.0 mmol) of diethylamine are combined with the same reactants and the same conditions as described above in Example I. This mixture is then refluxed for 48 hours. After the methanol is eliminated as described above in Example I, about 19 g of tetra-n-heptyl ethenylidenebisphosphonate is produced as a clear liquid.

reactant | tetra-n-heptyl methylenebisphosphonate | 44.0 mmol, 56.81 g | C(P(OCCCCCCC)(OCCCCCCC)=O)P(OCCCCCCC)(OCCCCCCC)=O | C29H62O6P2
reactant | paraformaldehyde | 220.0 mmol, 6.61 g | C=O | CH2O
reactant | diethylamine | 64.0 mmol, 3.22 g | C(C)NCC | C4H11N
solvent | methanol | CO | CH4O
product | tetra-n-heptyl ethenylidenebisphosphonate | about 19 g | C(=C)(P(OCCCCCCC)(OCCCCCCC)=O)P(OCCCCCCC)(OCCCCCCC)=O | C30H62O6P2
